US06566367B2
Heat a mixture of 5-(3-methoxyphenyl)benzimidazolidin-2-one (1.4 g) and tetramethylammonium chloride (ca. 2 g) in phosphorous oxychloride at 100° C. for 8 hours. After cooling, concentrate the mixture in vacuo, triturate with water, and neutralize with ammonium hydroxide. Collect the precipitate and air-dry to obtain 2-chloro-5-(3-methoxyphenyl)benzimidazole.

reactant | 5-(3-methoxyphenyl)benzimidazolidin-2-one | 1.4 g | COC=1C=C(C=CC1)C1=CC2=C(NC(N2)=O)C=C1 | C14H12N2O2
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | tetramethylammonium chloride | ca. 2 g | [Cl-].C[N+](C)(C)C
product | 2-chloro-5-(3-methoxyphenyl)benzimidazole | ClC=1NC2=C(N1)C=CC(=C2)C2=CC(=CC=C2)OC | C14H11ClN2O
